US07074932B2
Step (1): Preparation of ethyl 3-(3-quinolinyl)-2-propenoate (Scheme 4, Compound (11))
The 3-bromoquinoline (300 g, 1.44 mmol), ethyl acrylate (168 g, 1.68 mmol), palladium(II) acetate (32.3 g, 144 mmol), tetrabutylammonium bromide (478 g 1.44 mol), and sodium bicarbonate (483.9 g, 5.76 mol) were combined in a 5-L round-bottom flask with overhead stirring and 3 L dimethyl formamide (anhydrous). The reaction mixture was heated to 90° C. with heating mantle. After 30 minutes, 3-bromoquinoline was not detected by HPLC. The reaction was cooled to room temperature with an ice bath, and 2.65 L of ethyl acetate was added. The organic layer was washed with 1500 mL H2O. The aqueous layer was extracted with 4×1 L of 1:1 toluene/ethyl acetate; the combined organic layers were then washed with 6×1 L brine, then evaporated to give 217.4 g (65% of desired product).

reactant | 3-bromoquinoline | 1.44 mmol, 300 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | ethyl acrylate | 1.68 mmol, 168 g | C(C=C)(=O)OCC | C5H8O2
reactant | sodium bicarbonate | 5.76 mol, 483.9 g | C([O-])(O)=O.[Na+]
reactant | dimethyl formamide | 3 L | CN(C=O)C | C3H7NO
catalyst | tetrabutylammonium bromide | 1.44 mol, 478 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | palladium(II) acetate | 144 mmol, 32.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 2.65 L | C(C)(=O)OCC | C4H8O2
product | ethyl 3-(3-quinolinyl)-2-propenoate | 65% | N1=CC(=CC2=CC=CC=C12)C=CC(=O)OCC | C14H13NO2
